US05631356
e. N-(α-hydroxy-tetracosanoyl) phytosphingosine
Sodium hydroxide (0.08 ml, 6.18M) is added to a stirred solution of 58 mg of N-(α-acetoxy-tetracosanoyl) phytosphingosine in 3 ml of 96% ethanol. After 1.5 hours, additional 6.18M sodium hydroxide (0.05 ml) is added and stirring is continued for 0.5 hour.

reactant | Sodium hydroxide | 6.18M, 0.08 ml | [OH-].[Na+]
reactant | N-(α-acetoxy-tetracosanoyl) phytosphingosine | 58 mg | C(C)(=O)OC(C(CCCCCCCCCCCCCCCCCCCCCC)N[C@@H](CO)[C@H](O)[C@H](O)CCCCCCCCCCCCCC)=O | C44H87NO6
reactant | sodium hydroxide | 6.18M, 0.05 ml | [OH-].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | N-(α-hydroxy-tetracosanoyl) phytosphingosine | OC(C(CCCCCCCCCCCCCCCCCCCCCC)N[C@@H](CO)[C@H](O)[C@H](O)CCCCCCCCCCCCCC)=O | C42H85NO5
